US09382188B2
A) ethyl 3-cyclopropyl-3-(3-((N-(2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)acetamido)methyl)phenyl)propanoate
To a solution of ethyl 3-cyclopropyl-3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)propanoate (104 mg) in THF (2.0 mL) were added N-ethyldiisopropylamine (52 μL) and acetyl chloride (17 μL) at 0° C., and the mixture was stirred at room temperature for 1.5 hr. Ice water was added at 0° C., and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The is solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (104 mg) as a colorless oil.

reactant | ethyl 3-cyclopropyl-3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)propanoate | 104 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)CNC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C33H40FNO3
reactant | N-ethyldiisopropylamine | 52 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | acetyl chloride | 17 μL | C(C)(=O)Cl | C2H3ClO
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | ethyl 3-cyclopropyl-3-(3-((N-(2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)acetamido)methyl)phenyl)propanoate | 104 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)CN(C(C)=O)C1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C35H42FNO4
